US06576645B1
c) (Z)-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenylamino]acetic Acid Ethyl Ester
(Z)-4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenylamine (2.0 g, 5.99 mmol), ethanol (30 ml), ethyl bromoacetate (2.5 g, 15 mmol) and sodium acetate (2.4 g, 17.9 mmol) are added to the reaction vessel and refluxed for three hours. Then the solvent is evaporated and the residue is dissolved in water and ethyl acetate. Ethyl acetate phase is dried and evaporated to dryness. Yield 2.9 g.

reactant | (Z)-4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenylamine | 5.99 mmol, 2.0 g | ClCC/C(=C(\C1=CC=CC=C1)/C1=CC=C(C=C1)N)/C1=CC=CC=C1 | C22H20ClN
reactant | ethyl bromoacetate | 15 mmol, 2.5 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium acetate | 17.9 mmol, 2.4 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (Z)-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenylamino]acetic Acid Ethyl Ester | C(C)OC(CNC1=CC=C(C=C1)\C(=C(\CCCl)/C1=CC=CC=C1)\C1=CC=CC=C1)=O | C26H26ClNO2
